US06388088B1
A solution of 2-fluoro-4-iodoaniline (4.74 g, 20 mmol) in dry tetrahydrofuran (20 mL) was cooled to 0° C. and then treated with acetic anhydride (8.2 g, 80 mmol). The reaction mixture was stirred for 10 min at 0° C. and then was allowed to warm to 25° C. where it was stirred for 2 h. After this time, thin layer chromatography analysis of the reaction mixture indicated the absence of starting material. The reaction mixture was then concentrated in vacuo to afford a crude residue. The residue precipitated from diethyl ether (50 mL) and hexanes (50 mL). The solid was collected by filtration and washed with hexanes to afford N-(2-fluoro-4-iodo-phenyl)-acetamide (5.12 g, 92%) as a white crystalline solid: mp 152-154° C.; EI-HRMS m/e calcd for C8H7FINO (M+) 278.9556, found 278.9559.

reactant | 2-fluoro-4-iodoaniline | 20 mmol, 4.74 g | FC1=C(N)C=CC(=C1)I | C6H5FIN
reactant | acetic anhydride | 80 mmol, 8.2 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | N-(2-fluoro-4-iodo-phenyl)-acetamide | 5.12 g, 92% | FC1=C(C=CC(=C1)I)NC(C)=O | C8H7FINO
